US07745646B2
4-(2-Chloro-6-methylphenylamino)-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one
The title compound was prepared from 2-chloro-6-methylaniline and 4-chloro-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one following the procedure outlined in Example 16. 1H NMR (400 MHz, DMSO-d6): δ 9.18 (s, 1H), 7.94 (d, 1H), 7.50 (dd, 1H), 7.42-7.34 (m, 2H), 7.16 (d, 1H), 4.82 (m, 1H), 4.28 (s, 1H), 3.90 (s, 3H), 2.21 (s, 3H), 1.90-1.45 (m, 8H); MS (ESI): 399.9.

reactant | 2-chloro-6-methylaniline | ClC1=C(N)C(=CC=C1)C | C7H8ClN
reactant | 4-chloro-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one | ClC1=CC(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O | C15H15ClO4
product | 4-(2-Chloro-6-methylphenylamino)-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one | ClC1=C(C(=CC=C1)C)NC1=CC(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O | C22H22ClNO4
